US08445510B2
1-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-5-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
To a solution of 1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-5-chloro-4-iodo-1H-pyrazole (30.0 mg, 0.0680 mmol) in THF (1 mL, 20 mmol) at rt was added 2 M isopropylmagnesium chloride in THF (0.10 mL, 0.20 mmol), and the mixture was stirred for 20 min. The reaction was quenched with 2-methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.045 mL, 0.27 mmol), and allowed to stir at rt for 1 h. Sat. NH4Cl was added, and the organic solvent was removed in vacuo. The material was extracted with DCM and water. The organic layer was concentrated in vacuo to afford the title compound as a white solid. The material was used in the next step without further purification. 1H NMR (400 MHz, CD3OD): δ=0.12 (s, 6H), 0.93 (s, 9H), 1.33 (s, 8H), 1.46-1.60 (m, 2H), 1.86-2.09 (m, 6H), 3.70-3.82 (m, 1H), 4.38 (ddd, J=10.5, 5.2, 5.1 Hz, 1H), 7.69 (s, 1H).

reactant | 1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-5-chloro-4-iodo-1H-pyrazole | 0.0680 mmol, 30.0 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1Cl)I | C15H26ClIN2OSi
reactant | THF | 20 mmol, 1 mL | C1CCOC1 | C4H8O
reactant | isopropylmagnesium chloride | 2 M | C(C)(C)[Mg]Cl
reactant | THF | 0.20 mmol, 0.10 mL | C1CCOC1 | C4H8O
reactant | 2-methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.27 mmol, 0.045 mL | COB1OC(C(O1)(C)C)(C)C | C7H15BO3
reactant | NH4Cl | [NH4+].[Cl-]
product | 1-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-5-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1Cl)B1OC(C(O1)(C)C)(C)C | C21H38BClN2O3Si
